US07888366B2
To a cold (ice water) suspension of sodium hydride (316 mg; 7.9 mmol) in anhydrous DMF (10 mL) is added a solution of 3,4-dimethoxybenzyl alcohol (1.33 gm; 7.9 mmol) in anhydrous DMF (5 mL) over 10 minutes. After allowing to room temperature over 30 minutes, this solution is added to a cold (ice water) stirred solution of 2,6-difluorobenzonitrile (1 g; 7.2 mmol) in anhydrous DMF (15 mL), and allowed to room temperature over 3 hours. The reaction mixture is poured into ice water with vigorous stirring and refrigerated overnight. The resulting precipitate is removed by filtration and dried under vacuum overnight at 30° C. to give 1.81 grams of 2-(3,4-dimethoxybenzyloxy)-6-fluorobenzonitrile.

reactant | sodium hydride | 7.9 mmol, 316 mg | [H-].[Na+]
reactant | 3,4-dimethoxybenzyl alcohol | 7.9 mmol, 1.33 gm | COC=1C=C(CO)C=CC1OC | C9H12O3
reactant | 2,6-difluorobenzonitrile | 7.2 mmol, 1 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(3,4-dimethoxybenzyloxy)-6-fluorobenzonitrile | 1.81 grams | COC=1C=C(COC2=C(C#N)C(=CC=C2)F)C=CC1OC | C16H14FNO3
